US08314097B2
The 5-(2-chloro-4-cyanophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid (0.02 g, 70 pmol) is dissolved in DMSO (2 mL) and Et3N (0.2 mL) and heated at 100° C. for 2 h. The solution is evaporated to dryness and residue purified via reverse phase HPLC (5-100% MeCN/water w/0.1% TFA) to give 3-chloro-4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-benzonitrile as a white solid. MS (ESI) m/z 244.2, 246.2 (M+H); 1H NMR (400 MHz, CDCl3) (TFA salt) δ ppm 2.60-2.73 (m, 1 H), 3.08-3.20 (m, 2 H), 3.22-3.36 (m, 1 H), 6.04 (dd, J=7.6, 5.8 Hz, 1 H), 6.91 (d, J=8.1 Hz, 1 H), 7.24 (s, 1 H), 7.61 (d, J=8.1 Hz, 1 H), 7.81 (d, J=1.5 Hz, 1 H), 8.53 (s, 1 H).

reactant | 5-(2-chloro-4-cyanophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid | 70 pmol, 0.02 g | ClC1=C(C=CC(=C1)C#N)C1(CCC=2N1C=NC2)C(=O)O | C14H10ClN3O2
reactant | Et3N | 0.2 mL | CCN(CC)CC | C6H15N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 3-chloro-4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-benzonitrile | ClC=1C=C(C#N)C=CC1C1CCC=2N1C=NC2 | C13H10ClN3
